US07919504B2
tert-Butyl (S)-1-(5-(2-oxo-2,3-dihydrobenzo[d]oxazol-6-yl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate.
tert-Butyl (S)-1-(5-(3-hydroxy-4-aminophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate (200 mg, 328 μmol) was dissolved in 50 mL THF in a round bottom flask. To this flask was added CDI (213 mg, 1312 μmol). The mixture was stirred at 70° C. for 16 hours. After removing the solvent under reduced pressure, the remaining residue was mixed with 100 mL EtOAc. The organic solution was washed with water, saturated ammonium chloride twice and dried over sodium sulfate. After removing the solvent, the desired product (140 mg, 67%) was obtained as a tan solid. LCMS (API-ES) m/z (%): 636.0 (100%, M++H); 1H NMR (400 MHz, CD3OD) δ ppm 1.23 (s, 9H) 1.58 (s, 9H) 2.82-2.96 (m, 1H) 2.95-3.08 (m, 1H) 4.12-4.27 (m, 1H) 4.32-4.43 (m, 2H) 7.15-7.25 (m, 1H) 7.49 (d, J=8.02 Hz, 2H) 7.60 (d, J=7.83 Hz, 2H) 7.70 (dd, J=8.12, 1.47 Hz, 1H) 7.76 (s, 1H).

reactant | tert-Butyl (S)-1-(5-(3-hydroxy-4-aminophenyl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 328 μmol, 200 mg | OC=1C=C(C=CC1N)C1=NN=C(S1)N(C[C@H](CC1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C28H34F3N5O5S
reactant | CDI | 1312 μmol, 213 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-Butyl (S)-1-(5-(2-oxo-2,3-dihydrobenzo[d]oxazol-6-yl)-1,3,4-thiadiazol-2-yl-boc-amino)-3-(4-(trifluoromethyl)phenyl)propan-2-ylcarbamate | 140 mg, 67% | O=C1OC2=C(N1)C=CC(=C2)C2=NN=C(S2)N(C[C@H](CC2=CC=C(C=C2)C(F)(F)F)NC(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C29H32F3N5O6S
